US05907045
4,6-dimethyl-3-benzofuranone (0.09 moles) was slowly added in phosphorus tribromide (30 ml), previously heated to 100° C. The mix is cautiously treated with ice, extracted with methylenchloride. The organic phase is made anhydrous (Na2SO4) and freed from the solvent under reduced pressure to produce 4,6-dimethyl-3-bromobenzofuran (60% yield).

reactant | 4,6-dimethyl-3-benzofuranone | 0.09 moles | CC1=CC(=CC2=C1C(CO2)=O)C | C10H10O2
reactant | phosphorus tribromide | 30 ml | P(Br)(Br)Br | Br3P
product | 4,6-dimethyl-3-bromobenzofuran | 60% yield | CC1=CC(=CC2=C1C(=CO2)Br)C | C10H9BrO
